US08685974B2
To a degassed solution of acetonitrile (4 mL) and water (1 mL) were added potassium carbonate (4 eq, 2.8 mmol), 3-(5-chloro-2-thienyl)-1-isobutyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (1 eq, 0.7 mmol), 4-bromoquinoline (1 eq, 0.7 mmol) and 1,1′-bis(diphenylphosphinoferrocene)palladium(II)dichloride (0.1 eq, 0.07 mmol). The mixture was stirred at 130° C. in the microwave for 60 min. The solvent was evaporated and water and dichloromethane were added. The aqueous layer was extracted two times with dichloromethane. The combined organic extracts were dried over MgSO4 filtered and concentrated. The residue was purified by chromatography on silica gel (dichloromethane:methanol 1:0 to 9:1) to afford 45 mg of 4-[3-(5-chloro-2-thienyl)-1-isobutyl-1H-pyrazol-4-yl]quino line (15% yield).

reactant | acetonitrile | 4 mL | C(C)#N | C2H3N
reactant | potassium carbonate | 2.8 mmol, 4 eq | C([O-])([O-])=O.[K+].[K+]
reactant | 3-(5-chloro-2-thienyl)-1-isobutyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 0.7 mmol, 1 eq | ClC1=CC=C(S1)C1=NN(C=C1B1OC(C(O1)(C)C)(C)C)CC(C)C | C17H24BClN2O2S
reactant | 4-bromoquinoline | 0.7 mmol, 1 eq | BrC1=CC=NC2=CC=CC=C12 | C9H6BrN
solvent | water | 1 mL | O | H2O
product | 4-[3-(5-chloro-2-thienyl)-1-isobutyl-1H-pyrazol-4-yl]quino line | 45 mg, 15% yield | ClC1=CC=C(S1)C1=NN(C=C1C1=CC=NC2=CC=CC=C12)CC(C)C | C20H18ClN3S
